US04621142
(B) 1-[[3-[3-aminopropoxy)phenyl]carbonyl]piperidine
To a warm solution of 0.5 g. of 1-[3-[3-(1,3-dihydro-1,3-dioxo-2H-isoindol-2-yl)propoxy]benzoyl]piperidine in 20 ml. of absolute ethanol is added 1 ml. of hydrazine. The mixture is stirred at room temperature for 1 hour and is filtered. The filtrate is allowed to stand at room temperature for 18 hours and again is filtered. The filtrate is evaporated in a rotary evaporator and the residue is partitioned between 50 ml. of ether and 50 ml. of water. The ether layer is dried over magnesium sulfate, is filtered and is evaporated to give 80 mg. of oil. The oil is purified by HPLC using 1-Silica Prep Pac (Waters) and a combination of methanol, ethyl acetate and 1% triethylamine to give the analytical sample.

reactant | 1-[3-[3-(1,3-dihydro-1,3-dioxo-2H-isoindol-2-yl)propoxy]benzoyl]piperidine | O=C1N(C(C2=CC=CC=C12)=O)CCCOC=1C=C(C(=O)N2CCCCC2)C=CC1 | C23H24N2O4
reactant | hydrazine | NN | H4N2
solvent | ethanol | C(C)O | C2H6O
product | 1-[[3-[3-aminopropoxy)phenyl]carbonyl]piperidine | NCCCOC=1C=C(C=CC1)C(=O)N1CCCCC1 | C15H22N2O2
